US07737166B2
N-(3-Bromo-6-cyano-2-methoxy-5-methyl-4-styrylphenyl)-2,2-dimethylpropionamide (I-11)
Tetrakis(triphenylphosphine)palladium(0) (6.4 mg, 5.5 μmol) was added to an N,N-dimethylformamide (1.0 ml) suspension of N-(3-bromo-6-cyano-4-iodo-2-methoxy-5-methylphenyl)-2,2-dimethylpropionamide (I-6) (50 mg, 111 μmol), trans-β-styreneboronic acid (17.2 mg, 116 μmol), potassium phosphate n-hydrate (74-78%, 64 mg, 222 μmol), followed by stirred overnight at 95° C. The reaction liquid was cooled, then ethyl acetate (30 ml) was added, followed by washing with saturated brine (30 ml×2), drying over anhydrous magnesium sulfate, concentrating under reduced pressure.

reactant | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
reactant | N-(3-bromo-6-cyano-4-iodo-2-methoxy-5-methylphenyl)-2,2-dimethylpropionamide | 111 μmol, 50 mg | BrC=1C(=C(C(=C(C1I)C)C#N)NC(C(C)(C)C)=O)OC | C14H16BrIN2O2
reactant | trans-β-styreneboronic acid | 116 μmol, 17.2 mg | C(=C\C1=CC=CC=C1)/B(O)O | C8H9BO2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 5.5 μmol, 6.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-Bromo-6-cyano-2-methoxy-5-methyl-4-styrylphenyl)-2,2-dimethylpropionamide | BrC=1C(=C(C(=C(C1C=CC1=CC=CC=C1)C)C#N)NC(C(C)(C)C)=O)OC | C22H23BrN2O2
